US06355611B1
Step 1: N-Boc-trans-4-hydroxy-L-proline
A solution of trans-4-hydroxy-L-proline (3.0 kg, 22.88 M) in 1 M aqueous sodium hydroxide (25.2 L) and tert-butanol (12.0 L) was treated with a solution of di-tert-butyldicarbonate (5.09 kg) in tert-butanol (6.0 L) at 20° C. over 20 minutes. Upon complete addition, the resulting solution was stirred at 20° C. for 2 hours. The solution was extracted with hexane (2×15.0 L) and then acidified to pH 1 to 1.5 by cautious addition of a solution of potassium hydrogen sulphate (3.6 kg) in water (15.0 L). The mixture was extracted with ethyl acetate (3×15.0 L). The combined ethyl acetate extracts were washed with water (2×1.0 L) and dried by azeotropic distillation at atmospheric pressure (final KF of ethyl acetate solution <0.1%).

reactant | trans-4-hydroxy-L-proline | 22.88 M, 3.0 kg | O[C@@H]1C[C@H](NC1)C(=O)O | C5H9NO3
reactant | di-tert-butyldicarbonate | 5.09 kg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | sodium hydroxide | 1 M, 25.2 L | [OH-].[Na+]
solvent | tert-butanol | 12.0 L | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 6.0 L | C(C)(C)(C)O | C4H10O
product | N-Boc-trans-4-hydroxy-L-proline | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)C[C@H](C1)O | C10H17NO5
